US07384934B2
(S)-10-[3-(2-Phenoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Combine 2-methyl-4,9-dihydro-3-thia-4,9-diazabenzo[f]azulene-10-thione (0.382 g 1.55 mmol), (S)-2-(2-phenoxyethyl)piperazine (0.320 g, 1.55 mmol) and pyridine (5 mL) and reflux for 36 hours. Evaporate the mixture and apply the material to 10 g of SCX, then elute with methanol followed by 5% 2N ammonia-methanol in dichloromethane and then 2N ammonia-methanol. Purification by flash chromatography, eluting with a step gradient starting with dichloromethane going to 7% 2N ammonia-methanol in dichloromethane gives the title compound: mass spectrum (APCI): m/z=419.1 (M+1).

reactant | 2-methyl-4,9-dihydro-3-thia-4,9-diazabenzo[f]azulene-10-thione | 1.55 mmol, 0.382 g | CC1=CC=2C(NC3=C(NC2S1)C=CC=C3)=S | C12H10N2S2
reactant | (S)-2-(2-phenoxyethyl)piperazine | 1.55 mmol, 0.320 g | O(C1=CC=CC=C1)CC[C@@H]1NCCNC1 | C12H18N2O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | (S)-10-[3-(2-Phenoxy-ethyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | O(C1=CC=CC=C1)CC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C24H26N4OS
